US06447920B1
N-acryloyl morpholine/2-hydroxyethyl acrylamide co-telomer
A 1000 mL three-necked round bottom flask is charged with a solution of 28.4 g (250 mmol) cysteamine hydrochloride in 400 mL deionized water. 407 mg (1.5 mmol) α,α′-azodiisobutyramidine dihydrochloride and 70.6 g (500 mmol) acryloyl morpholine and 28.8 g (250 mmol) N-hydroxyethyl acrylamide are added. An intensive cooler and an internal thermometer are connected to the flask. The apparatus is evacuated to 100 mbar and filled with argon. This is repeated five times. The mixture is heated to 60° C. for four hours and then cooled to room temperature. An analytical sample is freeze-dried and the monomer conversion is determined by 1H-NMR spectroscopy. No resonances corresponding to C═C double bonds can be detected, indicating >98% conversion of the monomer. The remaining mixture is adjusted to pH=10 by addition of 30% KOH solution. Salts and low molecular weight residues such as unreacted chain transfer agent are removed by reverse osmosis using a Millipore Proscale system equipped with a Millipore Helicon RO-4 Nanomax 50 membrane operating at a pressure of 15 bar. The product is isolated from the obtained retentate by freeze-drying. Yield: 85 g of a white powder. The concentration of amino-groups is determined by functional group titration, result 0.95 mmol/g NH2 corresponding to an average molecular weight of the co-telomer of 1050 g/mol. GPC-analysis indicates a monomodal molecular weight distribution and the absence of high molecular weight polymer.

reactant | cysteamine hydrochloride | 250 mmol, 28.4 g | Cl.NCCS
reactant | α,α′-azodiisobutyramidine dihydrochloride | 1.5 mmol, 407 mg | Cl.Cl.N(=NC(C(=N)N)(C)C)C(C(=N)N)(C)C
reactant | acryloyl morpholine | 500 mmol, 70.6 g | C(C=C)(=O)N1CCOCC1 | C7H11NO2
reactant | N-hydroxyethyl acrylamide | 250 mmol, 28.8 g | OCCNC(C=C)=O | C5H9NO2
solvent | water | O | H2O
product | N-acryloyl morpholine 2-hydroxyethyl acrylamide | C(C=C)(=O)N1CCOCC1.OCCC(C(=O)N)=C | InChI=1S/C7H11NO2.C5H9NO2/c1-2-7(9)8-3-5-10-6-4-8;1-4(2-3-7)5(6)8/h2H,1,3-6H2;7H,1-3H2,(H2,6,8)
